US04382143
Preparation of 4-hexadecylamino-1-methyl-2-pyrrolecarboxylic acid
A mixture of 1.0 g. of ethyl 4-hexadecylamino-1-methyl-2-pyrrolecarboxylate and 10 ml. of 40% aqueous sulfuric acid is heated under reflux for 24 hours, allowed to cool and neutralized with sodium acetate. The mixture is extracted with chloroform and the extract is dried over magnesium sulfate and evaporated. The residue is purified by chromatography on a silica gel column by elution with chloroform-acetic acid mixtures. Evaporation of the eluate affords the product.

reactant | ethyl 4-hexadecylamino-1-methyl-2-pyrrolecarboxylate | C(CCCCCCCCCCCCCCC)NC=1C=C(N(C1)C)C(=O)OCC | C24H44N2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 4-hexadecylamino-1-methyl-2-pyrrolecarboxylic acid | C(CCCCCCCCCCCCCCC)NC=1C=C(N(C1)C)C(=O)O | C22H40N2O2
